US07517884B2
5-|4-(4-Trifluoromethyl-phenyl)-piperazine-1-sulfonyl|-2,3-dihydro-1H-indole: 1-{5-[4-(4-Trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-2,3-dihydro-indol-1-yl}-ethanone was refluxed in 1,4-dioxane (5 mL) and concentrate HCl (2.5 mL) for 2 h. The reaction was then diluted with dichloromethane and washed with 1N HCl, saturated sodium bicarbonate, dried (Na2SO4), filtered and concentrated to provide 5-[4-(4-trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-2,3-dihydro-1H-indole (1.03 g, 75%) as an off-white solid. 1H NMR (400 MHz, CDCl3) δ 7.48-7.20(m, 4H) 6.88 (d, 2H), 6.60 (d, 1H), 3.70 (t, 2H), 3.36-3.33 (m, 4H), 3.15-3.12 (m, 4H), 3.10 (t, 2H).

reactant | 2,3-dihydro-1H-indole | N1CCC2=CC=CC=C12 | C8H9N
reactant | 1-{5-[4-(4-Trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-2,3-dihydro-indol-1-yl}-ethanone | FC(C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=1C=C2CCN(C2=CC1)C(C)=O)(F)F | C21H22F3N3O3S
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-[4-(4-trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-2,3-dihydro-1H-indole | 1.03 g, 75% | FC(C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=1C=C2CCNC2=CC1)(F)F | C19H20F3N3O2S
